US08058290B2
Thiophene-3-carboxylic acid (6-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-1H-pyrazolo[3,4-b]pyridin-3-yl)amide
A solution of 1-[4-(3-amino-1H-pyrazolo[3,4-b]pyridin-6-yl)phenyl]-3-(2-fluoro-5-trifluoromethylphenyl)urea (80.0 mg, 0.186 mmol) in pyridine (2 ml) is cooled to 5° C. under argon and thiophene-3-carboxylic acid chloride (27 mg, 0.186 mmol, 1.0 eq.) is added. The mixture is stirred at ambient temperature for 5.5 h. Another equivalent of thiophene-3-carboxylic acid chloride (27 mg, 0.186 mmol) is added and the mixture is stirred at ambient temperature overnight. The reaction is taken up with water, and then extracted with ethyl acetate. The organic phase is washed twice with a salt solution, dried with magnesium sulphate, and concentrated. An orange yellow solid is then obtained. The crude is purified on a silica column, with an eluent gradient of 0% to 5% of methanol in dichloromethane. A beige solid is obtained:

reactant | 1-[4-(3-amino-1H-pyrazolo[3,4-b]pyridin-6-yl)phenyl]-3-(2-fluoro-5-trifluoromethylphenyl)urea | 0.186 mmol, 80.0 mg | NC1=NNC2=NC(=CC=C21)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C20H14F4N6O
reactant | thiophene-3-carboxylic acid chloride | 0.186 mmol, 27 mg, 1.0 eq. | S1C=C(C=C1)C(=O)Cl | C5H3ClOS
reactant | thiophene-3-carboxylic acid chloride | 0.186 mmol, 27 mg | S1C=C(C=C1)C(=O)Cl | C5H3ClOS
reactant | water | O | H2O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | Thiophene-3-carboxylic acid (6-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-1H-pyrazolo[3,4-b]pyridin-3-yl)amide | FC1=C(C=C(C=C1)C(F)(F)F)NC(NC1=CC=C(C=C1)C1=CC=C2C(=N1)NN=C2NC(=O)C2=CSC=C2)=O | C25H16F4N6O2S
